US07169446B2
Isobutyl aldehyde of 4.2 equivalent amount and a 1.0 equivalent amount of terephthalaldehyde were dissolved in methanol, and a methanol solution of a 2.1 equivalent amount of potassium hydroxide was dropwise added thereto at room temperature. The resulting solution was reacted at 60° C. for 6 hours, and concentrated under reduced pressure. The concentrate was dissolved in water ten times the concentrate while heating and allowed to cool to precipitate crystals. The precipitated crystals were filtered off, washed with water, and dried over a drying agent for 2 days under reduced pressure to obtain white crystals, 1,4-bis(3,3-dimethyloxetan-2-yl)-benzene. The yield was 80 to 85%.

reactant | terephthalaldehyde | C(C1=CC=C(C=O)C=C1)=O | C8H6O2
reactant | potassium hydroxide | [OH-].[K+]
solvent | methanol | CO | CH4O
product | 1,4-bis(3,3-dimethyloxetan-2-yl)-benzene | yield was 80 to 85% | CC1(C(OC1)C1=CC=C(C=C1)C1OCC1(C)C)C | C16H22O2
